US06960662B2
2-(Pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]-pyrimidin-7-one
To a stirred solution of 330 g (0.75 mol) of 2-(4-imino-4H-pyridin-1-yl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride in 1.5 L of dimethylsulfoxide were added in one portion 114 g (0.825 mol) of powdered potassium carbonate, followed by the addition of a solution of 2.8 g (0.03 mol; 0.05 eq) 4-aminopyridine in 50 mL of dimethylsulfoxide. The reaction mixture was heated to 100° C., and aliquots were removed after 1 hour and analyzed by reverse phase high pressure liquid chromatography (RP-HPLC) (YMC-AQ column, 60:40 CH3CN/0.02 M SDS, pH 2.2, 1.0 mL/min, 254 nm). After 40 minutes, the reaction was shown to produce the title compound, plus a dimer-like compound of the formula

reactant | 2-(4-imino-4H-pyridin-1-yl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 0.75 mol, 330 g | Cl.N=C1C=CN(C=C1)C=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC
reactant | potassium carbonate | 0.825 mol, 114 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-aminopyridine | 0.03 mol, 2.8 g, 0.05 eq | NC1=CC=NC=C1 | C5H6N2
solvent | dimethylsulfoxide | 1.5 L | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 2-(Pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]-pyrimidin-7-one | N1=CC=C(C=C1)NC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C22H21N5O3
